US05356752
1st stage: Preparation of 4-tert.-butoxycarbonyloxy-benzyl alcohol
Ten g (137.5 mmol) of K2CO3 were suspended in 150 ml of CH2Cl2, and 6.2 g (50 mmol) of 4-hydroxybenzyl alcohol were added. The alcohol did not completely dissolve. The reaction mixture was cooled to 0° C. At this temperature, 660 mg (2.5 mmol) of 18-crown-6-ether in 10.7 ml=10.9 g (50 mmol) of di-tert.-butyl dicarbonate were added dropwise. The mixture was stirred for some time at 0° C. and overnight at room temperature. The starting material was then no longer detectable, as shown by a thin-layer chromatogram (SiO2, 1:1 petroleum ether: ethyl acetate). The potassium carbonate was then filtered off. The reaction mixture was diluted with methylene chloride, washed three times with saturated sodium chloride solution and then dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was concentrated and then chromatographed over an SiO2 column with 1:1 petroleum ether:ethyl acetate. This gave 8 g (71% of theory) of a colorless oil as product.

reactant | K2CO3 | 137.5 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-hydroxybenzyl alcohol | 50 mmol, 6.2 g | OC1=CC=C(CO)C=C1 | C7H8O2
reactant | 18-crown-6-ether | 2.5 mmol, 660 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | di-tert.-butyl dicarbonate | 50 mmol, 10.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 150 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-tert.-butoxycarbonyloxy-benzyl alcohol | C(C)(C)(C)OC(=O)OC1=CC=C(CO)C=C1 | C12H16O4
